*反相器 
.subckt INV_TEST  IN VDD VNW VPW VSS OUT

XP1  VDD  IN  OUT   VNW  p11ll_ckt                   W=2.1e-07  L=4e-08
XN1  VSS  IN  OUT    VPW  n11ll_ckt                    W=1.2e-07  L=4e-08

.ends INV

* 测试电路，输入信号经过两个反向器进入到待测电路的输入端 TEST_IN
X_INV1 IN  VDD VNW VPW VSS  1             INV_TEST
X_INV2  1   VDD VNW VPW VSS  TEST_IN  INV_TEST

* 负载为一个电容，初始电压为0V
C_CLOAD OUT  VSS  '0.002pf+19*0.0005pf'  ic=0v