*反相器 
.subckt INV_TEST  IN VDD VNW VPW VSS OUT

XP1  VDD  IN  OUT   VNW  p11ll_ckt                  W=2.1e-07  L=4e-08
XN1  VSS  IN  OUT   VPW  n11ll_ckt                  W=1.2e-07  L=4e-08

.ends INV

* 测试电路，输入信号经过两个反向器进入到待测电路的输入端 TEST_IN
X_INV1 IN       VDD VNW VPW VSS  TEST_1        INV_TEST
X_INV2 TEST_1   VDD VNW VPW VSS  D       INV_TEST

* 负载为一个电容，初始电压为0V
C_CLOAD Q   0  '0.002pf+19*0.0005pf'  ic=0v